US08207164B2
h) (R)-2-(5-Bromo-2-fluoro-phenyl)-2-methyl-1-(2-nitro-benzenesulfonyl)-aziridine
To a solution of N-[(S)-2-(5-bromo-2-fluoro-phenyl)-2-hydroxy-propyl]-2-nitro-benzenesulfon-amide (20.8 g, 48 mmol) in CH2Cl2 (400 ml) was added PPh3 (19.2 g, 72.4 mmol) at 0-5° C. and diethyl azodicarboxylate (11.6 ml, 72.4 mmol). The reaction mixture was stirred for 24 h at 25° C. and concentrated. The title compound was obtained after chromatographic purification over silica gel (hexane-EtOAc 20:1 to 2:1) as yellow crystals: TLC (toluene-EtOAc 3:1): Rf=0.69; HPLC RtH5=1.308 min; 1H NMR (360 MHz, CDCl3): δ 8.31 (m, 1H), 7.28 (m, 3H), 7.60 (dd, 1H), 7.42 (m, 1H), 6.91 (dd, 1H), 3.24 (s, 1H), 2.81 (s, 1H), 2.06 (s, 3H).

reactant | N-[(S)-2-(5-bromo-2-fluoro-phenyl)-2-hydroxy-propyl]-2-nitro-benzenesulfon-amide | 48 mmol, 20.8 g | BrC=1C=CC(=C(C1)[C@](CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])(C)O)F | C15H14BrFN2O5S
reactant | PPh3 | 72.4 mmol, 19.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 72.4 mmol, 11.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-(5-Bromo-2-fluoro-phenyl)-2-methyl-1-(2-nitro-benzenesulfonyl)-aziridine | BrC=1C=CC(=C(C1)C1([N@@](C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)F | C15H12BrFN2O4S
